US09428509B2
2-Chloro-5-iodo-4-(1-methylcyclobutoxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine
To a suspension of sodium hydride (60% in mineral oil, 2.0 equiv) in dry THF (0.45 M) under a nitrogen atmosphere was added a solution of 1-methylcyclobutanol (1.2 equiv) in dry THF (0.27 M) at 0° C. The reaction mixture was stirred at 30° C. for 30 min before a solution of 2,4-dichloro-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine (1 equiv) in dry THF (0.23 M) was added and the resulting reaction mixture was heated at 60° C. for 2 h. After the reaction was completed, the reaction mixture was quenched with saturated aqueous ammonium chloride solution. The organic solvent was removed under vacuum and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate and filtered. The filtrate was evaporated under reduced pressure. The product was purified by silica gel chromatography (2% ethyl acetate in petroleum ether) to afford the title compound (77% yield) as a yellow oil. MS (ESI) m/z 494.2 [M+H]+.

reactant | sodium hydride | 2.0 equiv | [H-].[Na+]
reactant | 1-methylcyclobutanol | 1.2 equiv | CC1(CCC1)O | C5H10O
reactant | 2,4-dichloro-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2I)COCC[Si](C)(C)C)Cl | C12H16Cl2IN3OSi
solvent | THF | 0.45 M | C1CCOC1 | C4H8O
solvent | THF | 0.27 M | C1CCOC1 | C4H8O
solvent | THF | 0.23 M | C1CCOC1 | C4H8O
product | 2-Chloro-5-iodo-4-(1-methylcyclobutoxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 77% yield | ClC=1N=C(C2=C(N1)N(C=C2I)COCC[Si](C)(C)C)OC2(CCC2)C | C17H25ClIN3O2Si
